US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(5-cyanoindol-1-yl)phenyl]urea (Table 1, Compound No. 9)
The title compound can be synthesized from 5-cyanoindole, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 1.

reactant | 5-cyanoindole | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(5-cyanoindol-1-yl)phenyl]urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#N)C(F)(F)F | C23H14ClF3N4O
